US08877815B2
A mixture of tert-butyl 4-(biphenyl-4-yl)-3-(tert-butoxycarbonylamino)butanoate (110 mg, 0.267 mmol) and HCl in 1,4-dioxane (0.668 ml, 2.67 mmol) was stirred for 2 hours, and the reaction mixture was concentrated under reduced pressure. To a solution of 1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxylic acid (65.6 mg, 0.214 mmol, 86% purity), EDC.HCl (51.2 mg, 0.267 mmol) and 1-hydroxy-7-azabenzotriazole (36.4 mg, 0.267 mmol) in DMF (1 ml) stirred for 1.5 hour, the obtained residue and DIPEA (0.093 ml, 0.535 mmol) were added. After stirred for 2.5 hours, the reaction was diluted with water. The products were extracted with EtOAc, washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by flash column chromatography on silica gel (eluent: heptane/EtOAc=100:0 to 0:100) to give tert-butyl 3-(1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxamido)-4-(biphenyl-4-yl)butanoate (38 mg); Retention time=1.89 minutes (condition B); MS (m+1)=556.3.

reactant | tert-butyl 4-(biphenyl-4-yl)-3-(tert-butoxycarbonylamino)butanoate | 0.267 mmol, 110 mg | C1(=CC=C(C=C1)CC(CC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C25H33NO4
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 2.67 mmol, 0.668 ml | O1CCOCC1 | C4H8O2
reactant | 1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxylic acid | 0.214 mmol, 65.6 mg | C(C1=CC=CC=C1)OC(CC1(CCCC1)C(=O)O)=O | C15H18O4
reactant | EDC.HCl | 0.267 mmol, 51.2 mg | CCN=C=NCCCN(C)C.Cl
reactant | 1-hydroxy-7-azabenzotriazole | 0.267 mmol, 36.4 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | DIPEA | 0.535 mmol, 0.093 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 3-(1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxamido)-4-(biphenyl-4-yl)butanoate | 38 mg | C(C1=CC=CC=C1)OC(CC1(CCCC1)C(=O)NC(CC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C35H41NO5
